US06544990B2
Preparation 6 N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide
To a mixture of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxamide (0.075 g) and K2CO3 (0.077 g) in 5 mL DMF is added methyl iodide (2.4 g) and the mixture is stirred at room temperature for 5 days. The mixture is then poured into water and the resulting solid collected. The crude product is chromatographed (Biotage flash 40S, eluent CH2Cl2 then 1% MeOH/CH2Cl2). Fractions homogeneous by TLC are combined and concentrated. The resulting solid is recrystallized from CH2Cl2/hexanes to yield 0.037 g (48%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxamide | 0.075 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CC2CCOCC2)I)C=C1 | C23H22ClIN2O3
reactant | K2CO3 | 0.077 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 2.4 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide | 0.037 g, 48% | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CC2CCOCC2)I)C)C=C1 | C24H24ClIN2O3
